US08349851B2
A mixture of (4-chloro-8-fluoroquinazolin-2-yl)(4-fluorophenyl)methanone (0.4 g, 1.32 mmol), 5-methyl-1H-pyrazol-3-amine (0.15 g, 1.58 mmol), DIEA (0.69 mL, 4.0 mmol), and KI (0.24 g, 1.45 mmol) in DMF (8 mL) was stirred at rt for 20 h. The mixture was diluted with H2O (35 mL), and the precipitated solid was collected by filtration, washed with H2O, and triturated with MeOH at 0° C. A portion of the resulting solid was purified by preparative reverse phase HPLC to afford (8-fluoro-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanone. 1H NMR (300 MHz, DMSO-d6) δ 2.19 (s, 3H), 6.52 (s, 1H), 7.41 (t, 2H), 7.64-7.80 (m, 2H), 8.11 (t, 2H), 8.57 (d, 1H), 10.84 (s, 1H), 12.27 (br s, 1H); LC-MS (ESI) m/z 366 (M+H)+.

reactant | (4-chloro-8-fluoroquinazolin-2-yl)(4-fluorophenyl)methanone | 1.32 mmol, 0.4 g | ClC1=NC(=NC2=C(C=CC=C12)F)C(=O)C1=CC=C(C=C1)F | C15H7ClF2N2O
reactant | 5-methyl-1H-pyrazol-3-amine | 1.58 mmol, 0.15 g | CC1=CC(=NN1)N | C4H7N3
reactant | DIEA | 4.0 mmol, 0.69 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | H2O | 35 mL | O | H2O
product | (8-fluoro-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-2-yl)(4-fluorophenyl)methanone | FC=1C=CC=C2C(=NC(=NC12)C(=O)C1=CC=C(C=C1)F)NC1=NNC(=C1)C | C19H13F2N5O
